US05416065
Preparation of 8-(4-chloro-2-fluoro-5-methoxycarbonylmethylthio-phenyl-imino)-3-methoxy-7-thia-1,5-diazabicyclo[3.3.0]octan-6-one
At 0°-5° C., 4.2 ml of phosgene solution in toluene (20%) are added to a solution of 2.8 g of α-[2-chloro-4-fluoro-5-(4-methoxypyrazolidinyl-thiocarbonylamino)-phenylthio]-acetic acid methyl ester in 20 ml of toluene. After stirring for 2 hours at 22° C., the organic phase is washed with water, dried and concentrated. The product is purified by means of column chromatography to yield 2.21 g of the desired product, 8-(4-chloro-2-fluoro-5-methoxy-carbonylmethylthio-phenylimino)-3-methoxy-7-thia-1,5-diazabicyclo[3.3.0]octan-6-one, in the form of a yellow oil.

reactant | phosgene | 4.2 ml | C(=O)(Cl)Cl | CCl2O
reactant | α-[2-chloro-4-fluoro-5-(4-methoxypyrazolidinyl-thiocarbonylamino)-phenylthio]-acetic acid methyl ester | 2.8 g | COC(CSC1=C(C=C(C(=C1)NC(=S)N1NCC(C1)OC)F)Cl)=O | C14H17ClFN3O3S2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(4-chloro-2-fluoro-5-methoxycarbonylmethylthio-phenyl-imino)-3-methoxy-7-thia-1,5-diazabicyclo[3.3.0]octan-6-one | 2.21 g | ClC1=CC(=C(C=C1SCC(=O)OC)N=C1SC(N2CC(CN12)OC)=O)F | C15H15ClFN3O4S2
